US08476261B2
50A) Preparation of 1-[(benzoylamino)cyclobutyl]acetaldehyde
DIBAL (40.0 mL, 1M solution in toluene) was added dropwise at −78° C. to a stirred solution of ethyl [1-(benzoylamino)cyclobutyl]acetate (6.86 g, 26.3 mmol) in THF (130 mL) over the course of 30 minutes. After stirring at −78° C. for 6 hours, MeOH (10 mL) was added dropwise to the mixture at −78° C. over the course of 30 minutes. Saturated aqueous NH4Cl (20 mL) was then added to the mixture, and the mixture was stirred at room temperature for 1 hour. The mixture was extracted with Et2O, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Flash chromatography (hexane:AcOEt=2:1) of the residue gave the title compound as a colorless solid (1.82 g, 32%). 1H-NMR (400 MHz, CDCl3) δ 1.87-2.07 (2H, m), 2.25-2.34 (2H, m), 2.36-2.45 (2H, m), 3.28 (2H, s), 6.57 (1H, brs), 7.39-7.45 (2H, m), 7.46-7.53 (1H, m), 7.70-7.76 (2H, m), 9.79 (1H, s).

reactant | DIBAL | 1M, 40.0 mL | CC(C)C[AlH]CC(C)C
reactant | ethyl [1-(benzoylamino)cyclobutyl]acetate | 26.3 mmol, 6.86 g | C(C1=CC=CC=C1)(=O)NC1(CCC1)CC(=O)OCC | C15H19NO3
reactant | MeOH | 10 mL | CO | CH4O
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 1-[(benzoylamino)cyclobutyl]acetaldehyde | 1.82 g, 32% | C(C1=CC=CC=C1)(=O)NC1(CCC1)C(C)=O | C13H15NO2
